US09085555B2
B. (1-Carbamoyl-1H-indol-3-yl)-acetic acid
To a suspension of (1-carbamoyl-1H-indol-3-yl)-acetic acid ethyl ester in methanol (61 mL) and water (6.1 mL) was added an 1N aqueous solution of NaOH (12.2 mL, 12.2 mmol) and the resulting yellow solution was stirred at RT for 4 h. The reaction mixture was concentrated under reduced pressure and the residue was suspended in HCl 1N. The aqueous mixture was extracted with EtOAC (3×), the combined organic extracts were dried (phase separator) and concentrated in vacuo. The crude product was used directly in the next step without any further purification. MS: 219 [M+H]+, 437 [2M+H]+; tR (HPLC conditions b) 2.16 min.

reactant | (1-carbamoyl-1H-indol-3-yl)-acetic acid ethyl ester | C(C)OC(CC1=CN(C2=CC=CC=C12)C(N)=O)=O | C13H14N2O3
reactant | NaOH | 12.2 mmol, 12.2 mL | [OH-].[Na+]
solvent | methanol | 61 mL | CO | CH4O
solvent | water | 6.1 mL | O | H2O
product | (1-Carbamoyl-1H-indol-3-yl)-acetic acid | C(N)(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C11H10N2O3
